US03994890
By the procedure similar to that described in Example 1, 3-phenyl-5-bromoindazole (4.10 g) and dimethylaminopropyl chloride hydrochloride (3.56 g) were treated to obtain 4.0 g of 1-dimethylaminopropyl)-3-phenyl-5-bromoindazole hydrochloride (m.p. 149°-150° C).

reactant | 3-phenyl-5-bromoindazole | 4.10 g | C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)Br | C13H9BrN2
reactant | dimethylaminopropyl chloride hydrochloride | 3.56 g | Cl.CN(C)CCCCl
product | 3-phenyl-5-bromoindazole hydrochloride | Cl.C1(=CC=CC=C1)C1=NNC2=CC=C(C=C12)Br | InChI=1S/C13H9BrN2.ClH/c14-10-6-7-12-11(8-10)13(16-15-12)9-4-2-1-3-5-9;/h1-8H,(H,15,16);1H
